US04255434
213 g (1 mol) of 1-bromo-4-chloro-3,3-dimethyl-butan-2-one were added dropwise to a boiling suspension of 128.5 g (1 mol) of 4-chlorophenol and 140 g (1 mol) of potassium carbonate in 1,000 ml of absolute acetone. The mixture was stirred for 15 hours under reflux and was then allowed to cool, and the inorganic residue was filtered off and rinsed with acetone. The filtrate was concentrated by distilling off the solvent in vacuo and the residue was taken up in 1,000 ml of methylene chloride, washed three times with 250 ml of water at a time, dried over sodium sulphate and distilled. 210 g (80.7% of theory) of 4-chloro-1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one of boiling point 125°-127° C./0.1 mm Hg were obtained.

reactant | 1-bromo-4-chloro-3,3-dimethyl-butan-2-one | 1 mol, 213 g | BrCC(C(CCl)(C)C)=O | C6H10BrClO
reactant | 4-chlorophenol | 1 mol, 128.5 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 1 mol, 140 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1,000 ml | CC(=O)C | C3H6O
product | 4-chloro-1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 210 g, 80.7% | ClCC(C(COC1=CC=C(C=C1)Cl)=O)(C)C | C12H14Cl2O2
